US08076355B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-chloro-1-benzofuran-2-carboxamide hydrochloride
190 mg (0.98 mmol) of 5-chlorobenzofuran-2-carboxylic acid, 200 mg (0.98 mmol) of R-3-aminoquinuclidine dihydrochloride, 450 mg (1.18 mmol) of HATU, 460 mg (3.54 mmol) of N,N-diisopropylethylamine and 2.0 ml of DMF are reacted according to the general procedure (variant B). The reaction mixture is purified by preparative HPLC. An excess of 1N hydrochloric acid is then added to the product. The solvent is removed under reduced pressure. 145 mg (43% of theory) of the title compound are isolated.

reactant | 5-chlorobenzofuran-2-carboxylic acid | 0.98 mmol, 190 mg | ClC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H5ClO3
reactant | HATU | 1.18 mmol, 450 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 3.54 mmol, 460 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-chloro-1-benzofuran-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=C(C=C1)Cl | InChI=1S/C16H17ClN2O2.ClH/c17-12-1-2-14-11(7-12)8-15(21-14)16(20)18-13-9-19-5-3-10(13)4-6-19;/h1-2,7-8,10,13H,3-6,9H2,(H,18,20);1H/t13-;/m0./s1
